US04175139
3,7,11,15,19,23,27,31,35-Nonamethyl-2,6,10,14,18,22,26,30,34-hexatriacontanonaenyl pentanoate
10 Grams of solanesol were dissolved in 50 ml of pyridine and the solution was added dropwise with 6.5 g of valeric acid anhydride at room temperature over 30 minutes. After completion of the addition, the mixture was stirred at room temperature for 5 hours to complete the reaction. The reaction product was poured in water to hydrolyze excessive valeric acid anhydride. After extraction with n-hexane, the extract was washed with water and concentrated. The concentrate was purified by chromatography with 100 g of silica gel in n-hexane/benzene solvent mixture as elution solvent to obtain the final product as white solid (m.p. 34.0°-35.0° C.). Yield: 8.8 g.______________________________________Elementary analysis as C50H82O2 : C H______________________________________Theoretical (%): 83.97 11.56Found (%): 83.95 11.57______________________________________

reactant | solanesol | CC(=CCC/C(=C/CC/C(=C/CC/C(=C/CC/C(=C/CC/C(=C/CC/C(=C/CC/C(=C/CC/C(=C/CO)/C)/C)/C)/C)/C)/C)/C)/C)C | C45H74O
reactant | valeric acid anhydride | 6.5 g | C(CCCC)(=O)OC(CCCC)=O | C10H18O3
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 3,7,11,15,19,23,27,31,35-Nonamethyl-2,6,10,14,18,22,26,30,34-hexatriacontanonaenyl pentanoate | C(CCCC)(=O)OCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(C)C)C)C)C)C)C)C)C)C | C50H82O2
